US03953477
N-2-chloroallyl-N-allyl-3,5-dimethylbenzamide
A solution was formed by dissolving N-allyl-2-chloroallylamine (0.032 moles) in 40 ml. of benzene. Then, triethylamine (0.032 moles) was added thereto. This solution was then cooled to 10°C. in an ice bath. Then, 3,5-dimethylbenzoylchloride was diluted with 40 ml. of benzene and added to the amine solution. The temperature rose to about 35°C. with triethylamine hydrogen chloride separation. The next day the reaction mixture was washed two times with diluted HCl and then two times with dilute (5% solution) sodium carbonate and dried. The solvent was removed to yield 7.0 grams of product ND30 1.5367.

reactant | N-allyl-2-chloroallylamine | 0.032 moles | C(C=C)NCC(=C)Cl | C6H10ClN
reactant | triethylamine | 0.032 moles | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethylbenzoylchloride | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-2-chloroallyl-N-allyl-3,5-dimethylbenzamide | 7.0 grams | ClC(CN(C(C1=CC(=CC(=C1)C)C)=O)CC=C)=C | C15H18ClNO
